US07659271B2
To a solution of 2-fluoro-5-(trifluoromethyl)benzaldehyde (3.00 g, 15.6 mmol) in toluene (60 mL) was added N-(cyclopentylmethyl)-N-ethylamine (2.70 g, 21.2 mmol) synthesized by the method described in International Patent Publication WO2006/073973 and potassium carbonate (6.50 g, 47.0 mmol), and the mixture was refluxed by heating for 68 hours. The reaction mixture was cooled to room temperature, then added with water, and extracted with chloroform. The organic layer was washed with saturated brine, then dried over anhydrous sodium sulfate, and concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=20:1) to obtain 2-[(cyclopentylmethyl)(ethyl)amino]-5-(trifluoromethyl)benzaldehyde (3.34 g, 71%) as a yellow oil.

reactant | 2-fluoro-5-(trifluoromethyl)benzaldehyde | 15.6 mmol, 3.00 g | FC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4F4O
reactant | N-(cyclopentylmethyl)-N-ethylamine | 21.2 mmol, 2.70 g | C1(CCCC1)CNCC | C8H17N
reactant | potassium carbonate | 47.0 mmol, 6.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[(cyclopentylmethyl)(ethyl)amino]-5-(trifluoromethyl)benzaldehyde | 3.34 g, 71% | C1(CCCC1)CN(C1=C(C=O)C=C(C=C1)C(F)(F)F)CC | C16H20F3NO
